*Transformer Subcircuit Parameters
*RATIO = Turns ratio= Secondary/Primary
*RP    = Primary DC resistance
*RS    = Secondary DC resistance
*LEAK  = Leakage inductance
*MAG   = Magnetizing inductance

*Generic Transformer
*dw: 2-8-99 corrected VISRC polarity and FCTRL configuration
*Connections:
*             Pri+
*             | Pri-
*             | | Sec+
*             | | | Sec-
*             | | | |
.SUBCKT TRANS 1 2 3 4 PARAMS: RATIO=1 RP=0.1 RS=0.1 LEAK=1u MAG=1k
VISRC   4 9 0V
FCTRL   5 2 VISRC {RATIO}
EVCVS   8 9 5 2 {RATIO}
RPRI    1 7 {RP}
RSEC    8 3 {RS}
LLEAK   7 5 {LEAK}
LMAGNET 2 5 {MAG}
.ENDS TRANS